Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Bactrim / Sulfa (Sulfonamide Antibiotics) / Tizanidine
 
Attending: ___.
 
Chief Complaint:
Wound infection s/p laparoscopic cholecystectomy 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Mrs. ___ is a ___ female who is now 10 days status
post lap cholecystectomy which was uneventful.
She called our office complaining of erythema around the
umbilical port site scar and abdominal pain that are not getting
better ever since surgery.
I saw her in the office and referred her to the emergency
department for further work-up.
She reports for the last 2 days she has redness around her
umbilical incision associated with night seats no f/c.  She also
reports having abdominal bloating but no nausea and vomiting. 
she
reports having 3 bowel movement since her surgery.  Reports 
still
having pain that is not resulting require her to take dilaudid
over Tylenol and Motrin.
Of note the patient had presented with perforated appendicitis a
year ago and after 3 days of nonoperative management she failed
and had to have laparoscopic appendectomy after which she spent
17 days in the hospital with C. difficile colitis.
She recently undergone fecal transplantation which she reported
in the success.
The cholecystectomy she had 10 days ago therefore did not 
include
perioperative antibiotics in order not to change her gut flora
again.
Today on physical examination she appeared to have erythema and
tenderness around her umbilical scar and fullness in the
abdominal wall underneath as the patient reported night sweats
and really not recovering well from surgery decision was made to
send her to the ED for a CT scan and lab workup.

 
Past Medical History:
PAST HISTORY: 
1.  IBS.
2.  RLQ pain attacks, onset ___.  CAT scan negative/endo
3.  SIBO in ___.  Rifaximin helped.
4.  SIBO, ___, on ___ helped. 
5.  Lactose/fructose intolerance, ___.
6.  Thyroiditis.
7.  Colon polyps, SSA ___, f/u ___
8.  Endometriosis -- mirena ___.
9.  Cervical radiculopathy.
10.  Anemia.
11.  Asthma, seasonal allergies, and migraines.
12.  Eczema.
13.  Perforated appendix/abscess ___, ___
14.  C. diff ___ relapse ___, vanco taper-colitis
16.  Gerd/dysphagia onset ___ EOE; plan motility/impedence
17.  12 cm endometrioma removed ___.  Gallstones
19.  Shellfish allergy-lip swelling ___.  GE severe due to raw oysters ___.  Relapse cdiff colitis, ___- STOOL Transplant ___

PRIOR SURGICAL PROCEDURES:
1.  Colonoscopy ___ with SSA adenoma, f/u ___
2.  Mirena removed ___, reinserted ___.
3.  Laparoscopy=12cm endometrioma removed; ___
4.  Perforated appendix ___.  Endoscopy in ___, negative esophagus, sto/sb
6.  Colonoscopy ___ neg colon random/TI bx 
7.  Colonoscopy ___, stool transplant for relapsing C. diff.
8. Laparoscopic cholecystectomy

 
Social History:
___
Family History:
The patient reports that her father passed away in ___ from ___ 
body dementia.
 
Physical Exam:
VS: 98.0, 68, 128/86, 18, 96% RA
GEN: Pleasant with NAD
HEENT: NC/AT, PERRL, EOMI, no JVD, no scleral icterus 
CV: RRR
PULM: CTAB
ABD: Soft, obese. Umbilical incision with minimal blanching 
erythema around and minimal serous discharge, and covered with 
4x4 gauze. 
EXTR: Warm
 
Pertinent Results:
RECENT LABS:

___ 01:22PM BLOOD WBC-13.9* RBC-4.18 Hgb-12.5 Hct-37.2 
MCV-89 MCH-29.9 MCHC-33.6 RDW-12.0 RDWSD-38.9 Plt ___
___ 05:09AM BLOOD WBC-11.4* RBC-4.06 Hgb-11.9 Hct-36.6 
MCV-90 MCH-29.3 MCHC-32.5 RDW-11.9 RDWSD-39.3 Plt ___
___ 05:09AM BLOOD Glucose-87 UreaN-16 Creat-0.7 Na-139 
K-4.0 Cl-101 HCO3-26 AnGap-12
___ 01:22PM BLOOD ALT-26 AST-20 AlkPhos-85 TotBili-0.2
___ 05:09AM BLOOD Calcium-9.1 Phos-4.0 Mg-2.4

RADIOLOGY:
___ ABD CT:
IMPRESSION: 
1. Inflammatory, phlegmonous changes within the umbilicus with 
minimal 
extension deep to the anterior abdominal wall.  No definite 
drainable fluid collection identified. 
2. Status post cholecystectomy with minimal stranding and trace 
fluid within the cholecystectomy bed, likely postoperative. 
3. Small amount of nonhemorrhagic free fluid in the right lower 
quadrant, 
nonspecific but may be postoperative. 

 
Brief Hospital Course:
The patient s/p laparoscopic cholecystectomy ___ days ago was 
admitted at the ___ Surgery with post operative wound 
infection. On admission patient was afebrile with WBC 13.9. 
Abdominal CT revealed iflammatory, phlegmonous changes within 
the umbilicus with minimal extension deep to the anterior 
abdominal wall, no definite drainable fluid  collection was 
identified. Infectious Disease team was consulted knowing 
patient's complicated history. ID recommended IV Vancomycin. 
Patient was started on antibiotics. On HD 1, patient's wound 
erythema subsided, she remained afebrile, and her WBC stared to 
downward. ID recommended transition patient to oral Linezolid 
and add PO Vancomycin for C. diff prophylactic. Patient was 
discharged home on 5 days course of antibiotics in stable 
condition. 

 
Medications on Admission:
ALBUTEROL SULFATE [PROAIR HFA] - ProAir HFA 90 mcg/actuation 
aerosol inhaler. ___ puffs(s) IH 30 minutes prior to exercise as 
needed
CHLORTHALIDONE - chlorthalidone 25 mg tablet. 0.5 (One half) 
tablet(s) by mouth once a day Resume ___
CITALOPRAM - citalopram 20 mg tablet. 1 tablet(s) by mouth at 
bedtime
FLUOCINONIDE-EMOLLIENT [FLUOCINONIDE-E] - Fluocinonide-E 0.05 % 
topical cream. apply to affected area twice a day as needed
FLUTICASONE PROPIONATE - fluticasone propionate 50 mcg/actuation 
nasal spray,suspension. 2 sprays intranasal once a day as needed 
-  (Prescribed by Other Provider)
HYDROMORPHONE - hydromorphone 2 mg tablet. 0.5 (One half) 
tablet(s) by mouth every six (6) hours as needed for severe pain 
do NOT drive while taking dilaudid.
HYOSCYAMINE SULFATE - hyoscyamine 0.125 mg sublingual tablet. 1 
tablet(s) sublingually q 6 hours  sl prn
LEVONORGESTREL [MIRENA] - Mirena 20 mcg/24 hours ___ yrs) 52 mg 
intrauterine device.   -  (Prescribed by Other Provider)
LEVOTHYROXINE - levothyroxine 88 mcg tablet. 1 tablet by mouth 
once a day take separate from calcium and simethicone
LISINOPRIL - lisinopril 30 mg tablet. 1 tablet(s) by mouth once 
a day replaces previous prescription Resume ___
RANITIDINE HCL - ranitidine 300 mg tablet. 1 tablet(s) by mouth 
before bed -  (Prescribed by Other Provider)
SCOPOLAMINE BASE [TRANSDERM-SCOP] - Transderm-Scop 1.5 mg 
transdermal patch (1 mg over 3 days). Apply one patch behind ear 
as directed as needed Apply 4 hours prior to activity.  Replace 
after 72 hours.
 
Medications - OTC
CETIRIZINE - cetirizine 10 mg tablet. 1 tablet(s) by mouth once 
a day as needed for allergy symptoms -  (OTC)
CHOLECALCIFEROL (VITAMIN D3) - cholecalciferol (vitamin D3) 50 
mcg (2,000 unit) capsule. 1 capsule(s) by mouth once a day 
Resume on ___ -  (OTC; not consistently)
MULTIVITAMIN - Dosage uncertain -  (OTC)
MV-MN-VITC-ASBNA-GLU-LYS-HC124 [AIRBORNE (ASCORBATE SODIUM)] - 
Dosage uncertain -  (OTC) (Not Taking as Prescribed)

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
do not exceed more then 3000 mg/day  
2.  Linezolid ___ mg PO BID Duration: 5 Days  
3.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
BID:PRN SOB  
4.  vancomycin 125 mg oral BID Duration: 5 Days  
5.  Cetirizine 10 mg PO DAILY:PRN congestion  
6.  Chlorthalidone 12.5 mg PO DAILY  
7.  Citalopram 20 mg PO DAILY  
8.  Famotidine 40 mg PO DAILY  
9.  Fluocinonide 0.05% Cream 1 Appl TP BID  
10.  Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN sob, 
congestion  
11.  HYDROmorphone (Dilaudid) 1 mg PO Q6H:PRN Pain - Moderate  
12.  Hyoscyamine 0.125 mg SL Q6H:PRN GI/GU pain  
13.  Levothyroxine Sodium 88 mcg PO DAILY  
14.  Lisinopril 30 mg PO DAILY  
15.  Multivitamins 1 TAB PO DAILY  
16.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Wound infection 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___ were admitted to the surgery service at ___ for evaluation 
and treatment of the wound infection. ___ were started on IV 
antibiotics and your WBC started to downward. ___ were 
transitioned to oral antibiotics prior to discharge per ID 
doctors. ___ are now safe to return home to complete your 
recovery with the following instructions:
.
Please call Dr. ___ office at ___ if ___ have 
any questions or concerns. Call if ___ have fever, drainage from 
incision, or redness get worse. During off hours, call Operator 
at ___ and ask to ___ team. 
.
Wound Care:
*Please call your doctor or nurse practitioner if ___ have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
___ may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
*Apply dry gauze dressing daily and prn. 
 
Followup Instructions:
___